US08445509B2
Production of 6-(3-fluorophenyl)-5-methylpyridine-2-carbonitrile 1-oxide
To a solution (50 mL) of 6-(3-fluorophenyl)-5-methylpyridine-2-carbonitrile (4.42 g, 20.8 mmol) in acetonitrile were added trifluoroacetic acid anhydride (17.6 g, 62.4 mmol) and sodium percarbonate (6.5 g, 41.6 mmol) at 0° C., and the mixture was stirred at 0° C. for 1 hr and at room temperature overnight. The reaction solution was divided into two layers with ethyl acetate and saturated aqueous sodium hydrogen carbonate solution and subjected to extraction (3 times) with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The disappearance of sodium percarbonate was confirmed, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography to give the title compound (1.4 g, 29%) as a white solid.

reactant | 6-(3-fluorophenyl)-5-methylpyridine-2-carbonitrile | 20.8 mmol, 50 mL, 4.42 g | FC=1C=C(C=CC1)C1=C(C=CC(=N1)C#N)C | C13H9FN2
reactant | trifluoroacetic acid anhydride | 62.4 mmol, 17.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium percarbonate | 41.6 mmol, 6.5 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-fluorophenyl)-5-methylpyridine-2-carbonitrile 1-oxide | 1.4 g, 29% | FC=1C=C(C=CC1)C=1C(=CC=C([N+]1[O-])C#N)C | C13H9FN2O
